US04695573
9-(3-Methylbenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
3,4-Dihydro-9-(3-methylbenzylamino)acridin-1(2H)-one (3.70 g) was dissolved in 100 ml of dry THF and chilled in ice-water. 1M lithium aluminum hydride in THF (7.0 ml) was added and the reaction stirred 30 minutes in the cold. The reaction mixture was quenched by the sequential addition of 0.5 ml of water, 0.5 ml of 15% sodium hydroxide and 1.5 ml of water. The inorganic salts were filtered from the reaction mixture and the organic phase was evaporated to an oil. Trituration with ether gave a solid that was recrystallized from ethyl acetate/pentane to obtain 3.22 g, mp 133°-134° C.

reactant | 3,4-Dihydro-9-(3-methylbenzylamino)acridin-1(2H)-one | 3.70 g | CC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC1 | C21H20N2O
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 7.0 ml | C1CCOC1 | C4H8O
product | 9-(3-Methylbenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | CC=1C=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC1 | C21H22N2O
